US07202350B2
Imidazole (3.3 g) and tert-butyl-diphenylchlorosilane (10.0 g) were added to a solution of (3-bromo-5-fluorophenyl)methanol (5.0 g) in dimethylformamide (50 ml), and the mixture was stirred over night at room temperature. The reaction mixture was poured into water and extracted with ethyl acetate. The organic layer was washed with saturated saline solution and dried over anhydrous magnesium sulfate. After filtration, the solvent was evaporated from the filtrate under reduced pressure to give the residue. The resulting residue was purified by silica gel column chromatography (n-hexane-ethyl acetate) to obtain [(3-bromo-5-fluorobenzyl)oxy] (tert-butyl)diphenylsilane (9.5 g).

reactant | Imidazole | 3.3 g | N1C=NC=C1 | C3H4N2
reactant | tert-butyl-diphenylchlorosilane | 10.0 g | C(C)(C)(C)[Si](Cl)(C1=CC=CC=C1)C1=CC=CC=C1 | C16H19ClSi
reactant | (3-bromo-5-fluorophenyl)methanol | 5.0 g | BrC=1C=C(C=C(C1)F)CO | C7H6BrFO
reactant | water | O | H2O
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | [(3-bromo-5-fluorobenzyl)oxy] (tert-butyl)diphenylsilane | 9.5 g | BrC=1C=C(CO[Si](C2=CC=CC=C2)(C2=CC=CC=C2)C(C)(C)C)C=C(C1)F | C23H24BrFOSi
